US07495007B2
Preparation of racemic (2′R,3R,4′S)-6-bromo-4′-(3-chlorophenyl)-1′-(2,3-dihydroxy-propyl)-2′-(1-methylcyclopropyl)-spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione
The compound racemic (2′R,3R,4′S)-6-bromo-4′-(3-chlorophenyl)-1′-(2,3-dihydroxy-propyl)-2′-(1-methyl cyclopropyl)-2,3-dihydro-2,6′-dioxospiro[indole-3,3′-piperidine]-1-methoxyethyl trimethylsilane (40 mg, 0.06 mmol) was dissolved in trifluoroacetic acid (3 mL). The solution was stirred at room temperature for 1 h, then concentrated. The residue was dissolved in a solution of methanol (3 mL) and N,N′-diisopropylethylamine (1 mL). The reaction tube was then placed into the cavity of a focused monomode microwave reactor and the contents of the flask were irradiated at 120° C. for 30 min. The reaction mixture was concentrated and the residue was purified by Prep-HPLC to give title compound (20 mg, 63%) m/z (M+H)+: 533

reactant | racemic (2′R,3R,4′S)-6-bromo-4′-(3-chlorophenyl)-1′-(2,3-dihydroxy-propyl)-2′-(1-methyl cyclopropyl)-2,3-dihydro-2,6′-dioxospiro[indole-3,3′-piperidine] 1-methoxyethyl trimethylsilane | 0.06 mmol, 40 mg | BrC1=CC=C2C(=C1)NC(C21C(N(C(CC1C1=CC(=CC=C1)Cl)=O)CC(CO)O)C1(CC1)C)=O.COC(C)[Si](C)(C)C
solvent | trifluoroacetic acid | 3 mL | FC(C(=O)O)(F)F | C2HF3O2
product | racemic (2′R,3R,4′S)-6-bromo-4′-(3-chlorophenyl)-1′-(2,3-dihydroxy-propyl)-2′-(1-methylcyclopropyl)-spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | 20 mg, 63% | BrC1=CC=C2C(=C1)NC(C21C(N(C(CC1C1=CC(=CC=C1)Cl)=O)CC(CO)O)C1(CC1)C)=O | C25H26BrClN2O4
